US06900243B2
b) [3-(5-Chloro-2-cyano-4-fluorophenoxy)-3-cyclopentylpropyl]methylcarbamic Acid, 1,1-dimethylethyl ester
The subtitle compound was prepared according to the method of Example 3 step (b) using (3-cyclopentyl-3-hydroxypropyl)methylcarbamic acid, 1,1-dimethylethyl ester and 4-chloro-2,5-difluorobenzonitrile in N,N-dimethylformamide.

reactant | (3-cyclopentyl-3-hydroxypropyl)methylcarbamic acid, 1,1-dimethylethyl ester | C1(CCCC1)C(CCN(C(OC(C)(C)C)=O)C)O | C14H27NO3
reactant | 4-chloro-2,5-difluorobenzonitrile | ClC1=CC(=C(C#N)C=C1F)F | C7H2ClF2N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [3-(5-Chloro-2-cyano-4-fluorophenoxy)-3-cyclopentylpropyl]methylcarbamic Acid, 1,1-dimethylethyl ester | ClC=1C(=CC(=C(OC(CCN(C(OC(C)(C)C)=O)C)C2CCCC2)C1)C#N)F | C21H28ClFN2O3
